US06677352B1
A solution of aniline (1.01 mL, 11.1 mmol) in TEA (1.55 mL, 11.1 mmol) was added slowly to a cooled (0° C.) and stirred solution of 3,3-dichloro-l -(2,6-dichloro-3-pyridinyl)-2-propen-1-one (1.0 g, 3.69 mmol) in dioxane (20 mL). The reaction was allowed to warm to room temperature and was stirred overnight. The mixture was concentrated in vacuo until most of the solvent was removed. The residue was diluted with water and extracted with EtOAc (3×). The combined organic extracts were washed with water, dried over Na2SO4 and concentrated in vacuo. Silica gel flash chromatography of the residue using 6:1 EtOAc:Hex gave 3,3-dianilino-1-(2,6-dichloro-3-pyridinyl)-2-propen-1-one as pale yellow solid (0.69 g, 49%): LCMS RT: 3.81 min; MH+: 384.2.

reactant | aniline | 11.1 mmol, 1.01 mL | NC1=CC=CC=C1 | C6H7N
reactant | 3,3-dichloro-l -(2,6-dichloro-3-pyridinyl)-2-propen-1-one | 3.69 mmol, 1.0 g | ClC(=CC(=O)C=1C(=NC(=CC1)Cl)Cl)Cl | C8H3Cl4NO
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3,3-dianilino-1-(2,6-dichloro-3-pyridinyl)-2-propen-1-one | 0.69 g, 49% | N(C1=CC=CC=C1)C(=CC(=O)C=1C(=NC(=CC1)Cl)Cl)NC1=CC=CC=C1 | C20H15Cl2N3O
